US07851493B2
118 mg of 3-{4-[4-(3-benzyloxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methoxy-phenyl}-4H-[1,2,4]oxadiazol-5-one were dissolved in 14 mL of dichloromethane by heating and allowing to cool down to room temperature. To the resulting solution was added 144 μL of iodotrimethylsilane. The resulting mixture was stirred at room temperature for 6.5 h and 6 mL of methanol were added followed by a saturated aqueous solution of sodium bicarbonate. The mixture was stirred for 1 h, filtered and concentrated under reduced pressure. Dichloromethane/water were added to the residue. The organic layer was separated and the aqueous layer extracted three times with dichloromethane. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (dichloromethane 90/methanol 10) to give 40 mg of 3-{4-[4-(3-hydroxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methoxy-phenyl}-4H-[1,2,4]oxadiazol-5-one.

reactant | 3-{4-[4-(3-benzyloxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methoxy-phenyl}-4H-[1,2,4]oxadiazol-5-one | 118 mg | C(C1=CC=CC=C1)OCCCC=1N=C(SC1COC1=CC(=C(C=C1)C1=NOC(N1)=O)OC)C1=CC=C(C=C1)C(F)(F)F | C30H26F3N3O5S
reactant | iodotrimethylsilane | 144 μL | I[Si](C)(C)C | C3H9ISi
reactant | methanol | 6 mL | CO | CH4O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 14 mL | ClCCl | CH2Cl2
product | 3-{4-[4-(3-hydroxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methoxy-phenyl}-4H-[1,2,4]oxadiazol-5-one | 40 mg | OCCCC=1N=C(SC1COC1=CC(=C(C=C1)C1=NOC(N1)=O)OC)C1=CC=C(C=C1)C(F)(F)F | C23H20F3N3O5S
